US06545108B1
A suspension of 2,5-Diphenyl-pyrrol-1-ylamine (1.91 g, 8.15 mmol) in toluene (5.45 mL) was treated with 2,3-butanedione (7.15 mL, 81.5 mmol), DMF (10.9 mL) and p-toluene sulfonic acid (10.9 mg). The resulting suspension was stirred under Ar at rt for 30 min, then heated to 70° C. in an oil bath. After 2.5 h, the solutions cooled to rt and concentrated in vacuo. The oily solid was dissolved in toluene and concentrated in vacuo to remove excess 2,3-butanedione. The residue was purified by flash chromatography (SiO2, 10% EtOAc/heptane) to afford 3-(2,5-Diphenyl-pyrrol-1-ylimino)-butan-2-one: 1H NMR (CDCl3, chemical shifts in ppm relative to TMS): 1.44 (s, 3H), 2.56 (s, 3H), 6.47 (s, 2H), 7.20-7.26 (m, 2H), 7.34 (t, 4H, J=8.0 Hz), 7.47 (d, 4H, J=8.0 Hz).

reactant | 2,5-Diphenyl-pyrrol-1-ylamine | 8.15 mmol, 1.91 g | C1(=CC=CC=C1)C=1N(C(=CC1)C1=CC=CC=C1)N | C16H14N2
reactant | 2,3-butanedione | 81.5 mmol, 7.15 mL | CC(C(C)=O)=O | C4H6O2
reactant | DMF | 10.9 mL | CN(C)C=O | C3H7NO
reactant | p-toluene sulfonic acid | 10.9 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 5.45 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(2,5-Diphenyl-pyrrol-1-ylimino)-butan-2-one | C1(=CC=CC=C1)C=1N(C(=CC1)C1=CC=CC=C1)N=C(C(C)=O)C | C20H18N2O
